US04675397
To a solution of 449 mg of cis-4-azidomethyl-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-2-oxoazetidine in 80 ml of ethanol is added 200 mg of 10% palladium on charcoal, and the mixture is subjected to hydrogenation for 1.5 hours at room temperature and atmospheric pressure. The reaction mixture is filtered to remove the catalyst and the filtrate is concentrated to dryness in vacuo. The residue is taken up in 30 ml of methylene chloride. Under stirring at 0° C., 0.20 ml of triethylamine is added to the resulting methylene chloride solution, and a solution of 0.10 ml of acetyl chloride in methylene chloride is added dropwise over 10 minutes thereto. The reaction mixture is stirred for 40 minutes and then washed with dilute hydrochloric acid, water, an aqueous sodium hydrogen carbonate solution and an aqueous sodium chloride solution in this order, and dried over magnesium sulfate, and the solvent is distilled off in vacuo. Ethyl acetate is added to the residue and the resulting crystals are collected by filtration to give cis- 4-acetamidomethyl-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-2-oxoazetidine, m.p. 205°-207° C.

reactant | cis-4-azidomethyl-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-2-oxoazetidine | 449 mg | N(=[N+]=[N-])C[C@@H]1[C@@H](C(N1CC1=C(C=C(C=C1)OC)OC)=O)NC(CC1=CC=CC=C1)=O | C21H23N5O4
reactant | ethanol | 80 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
product | cis- 4-acetamidomethyl-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-2-oxoazetidine | C(C)(=O)NC[C@@H]1[C@@H](C(N1CC1=C(C=C(C=C1)OC)OC)=O)NC(CC1=CC=CC=C1)=O | C23H27N3O5
